US05543518
2,4-Bis(2,4-dihydroxy-5-hexylphenyl)-6-phenyl-s-triazine
To a 750 mL sulfonation flask equipped with a mechanical stirrer, condenser, dropping funnel and a nitrogen atmosphere are charged 34.0 g (150 mmol) of 2,4-dichloro-6-phenyl-s-triazine, 44.0 g (330 mmol) of aluminum chloride and 100 mL of ligroin (boiling range 110°-140° C). To that suspension, 60 mL of sulfolane are added dropwise with stirring over a 15 minute period with the temperature rising to 50° C. A solution of 62.1 g (320 retool) of 4-hexylresorcinol in 60 mL of sulfolane is then added dropwise over a 15 minute period. The temperature rises to 60° C. and hydrogen chloride is evolved. The reaction mixture is heated to 80° C. for four hours. The lower layer of the two-phase mixture is poured into a solution of 50 mL of concentrated hydrochloric acid in 500 mL of methanol and 300 mL of water. The mixture is stirred at room temperature for 14 hours. The product obtained is suspended in 800 mL of water at 80° C. for 1 hour, is isolated by filtration and resuspended under the same conditions, finally isolated and dried at 85° C. under vacuum. The title compound is obtained as a crude orange product (77.0 g) and melts at 230°-238° C. It can be used without further purification.

reactant | 2,4-dichloro-6-phenyl-s-triazine | 150 mmol, 34.0 g | ClC1=NC(=NC(=N1)Cl)C1=CC=CC=C1 | C9H5Cl2N3
reactant | aluminum chloride | 330 mmol, 44.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-hexylresorcinol | 62.1 g | C(CCCCC)C1=C(C=C(O)C=C1)O | C12H18O2
reactant | hydrogen chloride | Cl | ClH
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | sulfolane | 60 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | methanol | 500 mL | CO | CH4O
solvent | water | 300 mL | O | H2O
solvent | water | 800 mL | O | H2O
solvent | sulfolane | 60 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2,4-Bis(2,4-dihydroxy-5-hexylphenyl)-6-phenyl-s-triazine | OC1=C(C=C(C(=C1)O)CCCCCC)C1=NC(=NC(=N1)C1=C(C=C(C(=C1)CCCCCC)O)O)C1=CC=CC=C1 | C33H39N3O4
